US05610141
a) (S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-azaoctanedioic acid
A solution of (S)-4-amino-2-tert-butyloxycarbonylaminobutyric acid (1.03 g, 4.70 mmol) in acetonitrile (50 ml) was added to a solution of (S)-Boc-serine-β-lactone (0.80 g, 4.27 mmol) in acetonitrile (50 ml) and degassed H2O (50 ml). The pH was maintained at 5.5 by dropwise addition of 1M NaHCO3 with stirring. The mixture was stirred for 5 days at ambient temperature. The pH was controlled by NaHCO3 addition and the reaction monitored by TLC. The solvents were distilled off, the residue triturated with chloroform (5 ml), to which acetic acid was added to give pH 5. The chloroform solution was evaporated and the product isolated after chromatography on silica gel (CHCl3:MeOH 2:1).

reactant | (S)-4-amino-2-tert-butyloxycarbonylaminobutyric acid | 4.70 mmol, 1.03 g | NCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C9H18N2O4
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-azaoctanedioic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CNCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H31N3O8
